US07528160B2
2-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol
To a solution of 2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propionaldehyde (2.0 g, 6.68 mmol) in ethanol (30 mL) is added to NaBH4 (0.25 g, 6.6 mmol) in portions at 0° C. The reaction is kept at 0° C. for 15 minutes and warmed up to room temperature for 2 hours. The reaction is quenched using water, extracted with ethyl acetate, dried over sodium sulfate. Concentration and column chromatography on silica gel eluted with hexanes and ethyl acetate yields the title compound (2.0 g).

reactant | 2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propionaldehyde | 6.68 mmol, 2.0 g | CC=1N=C(SC1C(C=O)C)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NOS
reactant | NaBH4 | 6.6 mmol, 0.25 g | [BH4-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol | 2.0 g | CC=1N=C(SC1C(CO)C)C1=CC=C(C=C1)C(F)(F)F | C14H14F3NOS
